US07402595B2
6-chloro-1-oxo-2-pentylideneamino-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
A mixture of 2-amino-6-chloro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (210 mg), triethylamine (130 μl), valeraldehyde (81 μl) and methanol (4.2 ml) was stirred at 70° C. for 3.5 hrs. After cooling, the reaction mixture was concentrated under reduced pressure. The residue was purified by medium pressure preparative LC (hexane/ethyl acetate=9/1-1/1) to give the title compound (200 mg) as colorless crystals.

reactant | 2-amino-6-chloro-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 210 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Cl)=O)N | C17H13ClN2O3
reactant | triethylamine | 130 μl | C(C)N(CC)CC | C6H15N
reactant | valeraldehyde | 81 μl | C(CCCC)=O | C5H10O
solvent | methanol | 4.2 ml | CO | CH4O
product | 6-chloro-1-oxo-2-pentylideneamino-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 200 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Cl)=O)N=CCCCC | C22H21ClN2O3
